US04087524
Substituting 1α,17α-dimethyl-4-androsten-17β,19-diol dipropionate and 4-methyl-4-androstene-17β,19-diol dipropionate in the above procedure for the 1α-methyl-4-androstene-17β,19-diol dipropionate results in the formation of 1α,17α-dimethyl-4-androsten-17β,19-diol 17-propionate and 4-methyl-4-androstene-17β,19-diol 17-propionate, respectively.

reactant | 4-methyl-4-androstene-17β,19-diol dipropionate | C(CC)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=C(CCC[C@]3(COC(CC)=O)[C@H]1CC2)C | C26H40O4
reactant | 1α-methyl-4-androstene-17β,19-diol dipropionate | C(CC)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CCC[C@@H]([C@]3(COC(CC)=O)[C@H]1CC2)C | C26H40O4
product | 4-methyl-4-androstene-17β,19-diol 17-propionate | C(CC)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=C(CCC[C@]3(CO)[C@H]1CC2)C | C23H36O3
